US05270465
b) Ethyl 2-(4-acetyl-3-hydroxy-2-propylphenoxy)acetimidate
10.2 g (0.121 mole) of sodium hydrogen carbonate are added to a suspension of 40.0 g (0.127 mole) of ethyl 2-(4-acetyl-3-hydroxy-2-propylphenoxy)acetimidate hydrochloride in 1 l of chloroform, and this mixture is stirred for 1 hour. The solid is removed by filtration and the filtrate is concentrated to dryness under reduced pressure. The residue obtained is extracted with a mixture of 100 ml of hexane and 100 ml of isopropyl ether under reflux. This extract, concentrated under reduced pressure, is recrystallized from hexane. Yld: 25.0 g (70%), m.p. 50°-52° C.

reactant | sodium hydrogen carbonate | 0.121 mole, 10.2 g | C(O)([O-])=O.[Na+]
reactant | ethyl 2-(4-acetyl-3-hydroxy-2-propylphenoxy)acetimidate hydrochloride | 0.127 mole, 40.0 g | Cl.C(C)(=O)C1=C(C(=C(OCC(OCC)=N)C=C1)CCC)O
solvent | chloroform | 1 l | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-(4-acetyl-3-hydroxy-2-propylphenoxy)acetimidate | C(C)(=O)C1=C(C(=C(OCC(OCC)=N)C=C1)CCC)O | C15H21NO4
